* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 10k
R5 N003 0 10k
V1 0 N001 15
R4 N002 N004 47k
R1 N004 N003 10k
R3 N004 0 1.2k

.end